USH0001759
Step (c) Synthesis of 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)phenylmethanol
Using a Parr hydrogenator, 3.4 grams (0.014 mole) of 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)benzaldehyde in 200 mL of ethanol was hydrogenated in the presence of 5% palladium on carbon for two hours at 50 psi. The yield of subject compound was 2.3 grams, following purification by column chromatography on silica gel. The NMR spectrum was consistent with the proposed structure.

reactant | 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)benzaldehyde | 0.014 mole, 3.4 grams | C(C)C1=CC(=C(C=O)C=C1)OCC1OCOCC1 | C14H18O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)phenylmethanol | C(C)C1=CC(=C(C=C1)CO)OCC1OCOCC1 | C14H20O4
